US09062059B2
6-chloro-N-((2,4-dimethylthiazol-5-yl)methyl)-2-methylpyrimidin-4-amine 3A-1
The title compound was prepared from 4,6-dichloro-2-methylpyrimidine and (2,4-dimethylthiazol-5-yl)methanamine according to the protocol outlined in Example 1, to afford 3A-1 as a solid. LRMS (ES) (M+H)+: observed=269.1, calculated=269.7.

reactant | 4,6-dichloro-2-methylpyrimidine | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | (2,4-dimethylthiazol-5-yl)methanamine | CC=1SC(=C(N1)C)CN | C6H10N2S
product | 6-chloro-N-((2,4-dimethylthiazol-5-yl)methyl)-2-methylpyrimidin-4-amine | ClC1=CC(=NC(=N1)C)NCC1=C(N=C(S1)C)C | C11H13ClN4S
